US07112676B2
A solution of 1-[1-(2,4-dichloro-pyrimidin-5-yl)-ethyl]-1-(4-methoxy-phenyl)-3-[1-(S)-phenyl-ethyl]-urea (less polar diastereomer, 250 mg, 0.56 mmol) (from Example 16 supra) in tetrahydrofuran (5 mL). cooled to 5° C. was treated with potassium tert-butoxide (1.0 M solution in tetrahydrofuran, 0.62 mL, 0.62 mmol). After stirring at 5° C. for 15 minutes and then at room temperature for another 15 minutes, reaction mixture was diluted with ethyl acetate (20 mL) and was washed with water (2×10 mL) and dried over MgSO4. Solvent was evaporated under reduced pressure to give crude 7-chloro-3-(4-methoxy-phenyl)-4-methyl-1-[1-(S)-phenyl-ethyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one which was used directly in the following step. (308 mg, contains some solvent).

reactant | 1-[1-(2,4-dichloro-pyrimidin-5-yl)-ethyl]-1-(4-methoxy-phenyl)-3-[1-(S)-phenyl-ethyl]-urea | ClC1=NC=C(C(=N1)Cl)C(C)N(C(=O)N[C@@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)OC | C22H22Cl2N4O2
reactant | potassium tert-butoxide | 0.62 mmol, 1.0 M, 0.62 mL | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 7-chloro-3-(4-methoxy-phenyl)-4-methyl-1-[1-(S)-phenyl-ethyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | ClC1=NC=C2C(=N1)N(C(N(C2C)C2=CC=C(C=C2)OC)=O)[C@@H](C)C2=CC=CC=C2 | C22H21ClN4O2
